US06653308B2
A mixture of morpholine (2.6 mL, 30 mmol) and epichlorohydrin (2.35 ml, 30 mmol) in ethanol (50 mL) was stirred at 70° C. overnight. After removing the solvent, the residue was diluted with methylene chloride (50 mL). The clear solid precipitated was collected by vacuum filtration to give 1-chloro-3-morpholin-4-yl-propan-2-ol (2.0 g, 37%). 1H NMR (DMSO-d6) δ3.49 (t, J=4.8 Hz, 2H), 3.60 (t, J=4.6 Hz, 2H), 3.75 (m, 4H, 2×CH2), 4.20 (dd, J=5.2, 12 Hz, 2H), 4.54 (m, 2H), 4.62 (m, 1H, CH), 6.64 (d, J=6.4 Hz, 1H, OH). MS (m/z) 180.2 (M+1).

reactant | morpholine | 30 mmol, 2.6 mL | N1CCOCC1 | C4H9NO
reactant | epichlorohydrin | 30 mmol, 2.35 ml | C(Cl)C1CO1 | C3H5ClO
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-chloro-3-morpholin-4-yl-propan-2-ol | 2.0 g, 37% | ClCC(CN1CCOCC1)O | C7H14ClNO2
